US09056873B2
In a 30 mL sealed cap glass vial, tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (150 mg, 0.299 mmol), (E)-4-chlorostyrylboronic acid (54.6 mg, 0.299 mmol) and PdCl2(PPh3)2 (42.0 mg, 0.060 mmol) were dissolved in dioxane (5 mL). To the reaction mixture was added 2N aqueous sodium carbonate solution (2 mL). The cap was sealed and the reaction mixture was heated at 85° C. for 2 hours. The reaction mixture was subsequently diluted with water (5 mL) and extracted with EtOAc (2×30 mL). The combined organic phase was dried over sodium sulfate and evaporated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-((E)-4-chlorostyryl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was diluted with dichloromethane (3.0 mL) and treated with TFA (3 mL) for 1.5 hours to remove the protecting groups. The volatiles were subsequently evaporated from the reaction mixture, and the residual material was dissolved in DMSO (8 mL) and purified by preparative HPLC, eluting with 20-60% ACN (0.035% TFA) and water (0.05% TFA). The pure product fractions were combined, evaporated to a minimal volume, and lyophilized to give a TFA salt of the title compound as a pale yellow solid (42 mg, 35%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.77 (d, J=15.66 Hz, 1H), 1.98-2.22 (m, 1H), 3.50-3.73 (m, 2H), 3.79-4.08 (m, 3H), 4.32-4.51 (m, 2H), 4.55 (br s, 1H), 7.17 (d, J=5.05 Hz, 1H), 7.50 (d, J=8.59 Hz, 2H), 7.55-7.73 (m, 2H), 7.92 (d, J=4.55 Hz, 3H), 8.22 (d, J=16.17 Hz, 1H), 8.53 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H20ClFN4O2, 403. found, 403.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.299 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | (E)-4-chlorostyrylboronic acid | 0.299 mmol, 54.6 mg | ClC1=CC=C(/C=C/B(O)O)C=C1 | C8H8BClO2
reactant | sodium carbonate | 2N, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 0.060 mmol, 42.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-((E)-4-chlorostyryl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)\C=C\C1=CC=C(C=C1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H36ClFN4O6
